US07153849B2
8-Methyl-2-piperazin-1-ylmethyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
A mixture of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl-4-bromobenzene sulfonate (1.35 g, 3 mmol) and piperazine (2.58 g, 30 mmol) in dimethylsulfoxide (16 mL) is heated at 75° C. under nitrogen for 1 hour, cooled and poured into saturated aqueous sodium bicarbonate. The mixture is extracted with ethyl acetate and the extracts are dried over anhydrous magnesium sulfate and evaporated to dryness. The residue is flash chromatographed on silica gel Merck-60 using a gradient of methanol (5–25%) in dichloromethane containing 0.2% ammonium hydroxide to provide the title compound as an off-white oil (0.736 g) identical to the compound of example 1B, step B′.

reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl-4-bromobenzene sulfonate | 3 mmol, 1.35 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)COS(=O)(=O)C3=CC=C(C=C3)Br | C19H16BrNO5S
reactant | piperazine | 30 mmol, 2.58 g | N1CCNCC1 | C4H10N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 16 mL | CS(=O)C | C2H6OS
product | 8-Methyl-2-piperazin-1-ylmethyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | 0.736 g | CC1=NC2=CC=C3C(=C2C=C1)OC(CO3)CN3CCNCC3 | C17H21N3O2
